US06545016B1
(1R*,2R*)-N-{3-[4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-2-phenylcyclopropanecarboxamide
Using the method of Examples 78-92, trans-2-phenyl-1-cyclopropanecarbonyl chloride was reacted with 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 378.2298.

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C12H19N5
product | (1R*,2R*)-N-{3-[4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-2-phenylcyclopropanecarboxamide | NC1=NC(=C(C2=C1N=C(N2CCCNC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)C)C)C | C22H27N5O
